US09302991B2
<Step-3>:(R)—N-(1-(3-chloro-5-(trifluoromethoxy)phenyl)ethyl)-2-methylpropane-2-sulfinamide (single diastereomer)
The title compound is prepared in 48% yield (416 mg, a white solid) from 1-(3-chloro-5-(trifluoromethoxy)phenyl)ethanone (600 mg, 2.51 mmol, Step-2) and (R)-2-methylpropane-2-sulfinamide (457 mg, 3.77 mmol) by the similar manner in Step-4 of Amine-1.

reactant | 1-(3-chloro-5-(trifluoromethoxy)phenyl)ethanone | 2.51 mmol, 600 mg | ClC=1C=C(C=C(C1)OC(F)(F)F)C(C)=O | C9H6ClF3O2
reactant | (R)-2-methylpropane-2-sulfinamide | 3.77 mmol, 457 mg | CC(C)(C)[S@@](=O)N | C4H11NOS
product | (R)—N-(1-(3-chloro-5-(trifluoromethoxy)phenyl)ethyl)-2-methylpropane-2-sulfinamide | 48% yield | ClC=1C=C(C=C(C1)OC(F)(F)F)C(C)N[S@](=O)C(C)(C)C | C13H17ClF3NO2S
